US07402704B2
2-[4-(2-Chloro-4-pyrrolidin-1-yl-benzenesulfonyl)phenyl]-1,1,1-trifluoropropan-2-ol
50 mg 2-[4-(2-Chloro-4-fluoro-benzenesulfonyl)-phenyl]-1,1,1-trifluoro-propan-2-ol (0.13 mmol, prepared as in the previous examples) was combined in a pressure tube with 50 mg pyrrolidine. The resulting mixture was then placed into a preheated 100° C. bath. After stirring for 12 h, the mixture was diluted with 10 mL CH2Cl2 and sat. NaHCO3, then extracted (3×10% MeOH/CH2Cl2). The organics were dried (MgSO4) and concentrated under reduced pressure. Purification by flash chromatography (SiO2, 25% EtOAc/Hexanes) gave 35 mg of the product as a white solid (0.08 mmol). 1H NMR (CDCl3, 400 MHz) δ 8.09 (d, J=8.4 Hz, 1H), 7.92 (d, J=7.6 Hz, 2H), 7.70 (d, J=7.8 Hz, 2H), 6.49 (m, 2H), 3.32 (s, 4H), 2.04 (s, 4H), 1.78 (m, 3H).

reactant | 2-[4-(2-Chloro-4-fluoro-benzenesulfonyl)-phenyl]-1,1,1-trifluoro-propan-2-ol | 0.13 mmol, 50 mg | ClC1=C(C=CC(=C1)F)S(=O)(=O)C1=CC=C(C=C1)C(C(F)(F)F)(C)O | C15H11ClF4O3S
reactant | pyrrolidine | 50 mg | N1CCCC1 | C4H9N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 2-[4-(2-Chloro-4-pyrrolidin-1-yl-benzenesulfonyl)phenyl]-1,1,1-trifluoropropan-2-ol | 0.08 mmol, 35 mg | ClC1=C(C=CC(=C1)N1CCCC1)S(=O)(=O)C1=CC=C(C=C1)C(C(F)(F)F)(C)O | C19H19ClF3NO3S
